US20010025041A1
b) 2,3-Dichlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester
Diethyl azQdicarboxylate (349 mg, 2.0 nmuol) was added to a solution of 2,3dichlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester (644 mg, 2.0 mmol), as prepared in the preceding step, N-tert-butoxylcarbonyl-4-piperidinemethanol (430 mg, 2.0 mmol), as prepared in step (b) of Example 1, and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (20 mL) at 0° C. The mixture was stirred at 0° C. for 2 h and at room temperature for 3 h. The reaction mixture was quenched with water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic phase was washed with saturated NaHCO3 (2×50 mL), brine (2×50 mL) and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (1:3 ethyl acetate/hexane) to give the title compound as a colorless syrup (930 mg, 88%). 1H-NMR (300 MHz, CDCl3) δ1.26 (m, 2 H), 1.47 (s, 9 H), 1.75 (m, 2 H), 1.90 (m, 1 H), 2.25 (s, 3 H), 2.73 (t, 2 H, J=2.0Hz), 3.68 (d, 2 H, J=3.2 Hz), 4.13 (m, 2 H), 6.47 (d, 1 H, J=1.1 Hz), 6.53 (d, 1 H, J=0.4 Hz), 6.59 (s, 1 H), 7.34 (t, 1 H, J=8.2 Hz), 7.75 (m, 1 H), and 7.92 (m, 1 H).

reactant | 2,3dichlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 2.0 mmol, 644 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C13H10Cl2O4S
reactant | N-tert-butoxylcarbonyl-4-piperidinemethanol | 2.0 mmol, 430 mg | O(C(C)(C)C)C(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,3-Dichlorobenzenesulfonic acid 3-[[N-(tert-butoxycarbonyl)piperidin-4-yl]methoxy]-5-methylphenyl ester | 930 mg, 88% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C24H29Cl2NO6S
